Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
AMS
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with history of A. fib on
Eliquis, recent diagnosis of TIA (altered awareness and aphasia
in ___ presented to the ED with complaints of an episode of
loss of consciousness and right arm pain.  Patient does not
recall the episode and history is provided by his wife at
bedside.

As per the patient and wife he returned from work around 11 ___
after an 8-hour shift.  He went to bed at 1130 and fell asleep
soon after.  At around 3:45 AM patient heard his husband
screaming loud which woke her up.  She tried to call his name 
but
he was not responding to her.  After the screaming, he made 
gurgling/howling loud sounds with heavy breathing which lasted
for up to a minute and his head was turned to left.  She noticed
that his fists were clenched but his arms were lying next to him
flaccid.  Following this he remained unconscious, trembling in
bed for up to 15 minutes.  He then started to wake up, she
noticed him blinking but was not acknowledging or responding to
her.  He was holding his right arm and is in pain with movement.
EMS arrived by this time and brought him to the ED.  Right upper
extremity weakness was suspected and a code stroke was called 
but
upon arrival to the ED he was noted to have significant right
shoulder extremity pain suspected to be from right humeral
dislocation/fracture.  His mental status returned to baseline 
and
no other noted deficits were observed.  CT head was negative for
acute process.  Blood work showed an elevated lactate of 4 given
the suspicion of right humeral dislocation and seizure was
suspected.

Patient denies any recollection of this event.  He remembers
going to bed at night and woke up in the ambulance.  He does
complain of right shoulder pain and it is difficult for him to
move it.  He reports of having bilateral rotator cuff problems
and he had a repair done on his left shoulder and has been
monitoring his right.  He denies any recent fevers or chills or
nausea or vomiting or abdominal pain no chest pain or shortness
of breath or recent medications. No bowel or bladder problems. 
No prior history of similar episode. He has been missing some of
his Eliquis doses as he keeps forgetting to take it.  

Wife does report of him acting out his dreams and sleep talking
at times but she has never seen him have an episode similar to
above in the past.  Patient notes that him and his wife had a
huge fight the day before and he attributes current episode to
that.

 
Past Medical History:
Afib.  Has been on Eliquis for the past month
Prostate cancer

 
Social History:
___
Family History:
Daughter with migraines
No other family hx of seizure disorder, stroke, muscular,
movement, or neurological disorders

 
Physical Exam:
On admission:

Mental status:  
He is awake, alert, and oriented to time place and person.  He 
is
attentive, able to say months of the year backwards.  Fund of
knowledge is intact.  Language is fluent.  Normal prosody, no
paraphasic errors.  Able to name and repeat with intact
comprehension.  Memory for recent and remote history is intact. 
Following both midline and appendicular commands.  No evidence 
of
apraxia or neglect

Cranial nerves:  
Pupils are equal and reactive to light.  Extraocular movements
are full.  Facial sensation and movement are intact and
symmetric.  Hearing is intact to finger rub bilaterally.  Palate
elevates symmetrically.  SCM and trapezius are full strength
bilaterally.  Tongue is midline.  

Motor:  Tone is normal.  He has no pronator drift.  Strength is
full in all muscle groups in 4 extremities.    
Sensation:  Sensation is intact to pinprick, light touch.  Joint
position sense is intact.
Coordination: No dysmetria to finger-nose bilaterally
Reflexes: 2 at biceps, triceps, brachioradialis, patella and 1 
at
the ankle bilaterally.  toes are downgoing bilaterally.  
Gait: Deferred

On discharge:

Mental status:  
He is awake, alert, and oriented to time place and person.  He 
is
attentive, able to say months of the year backwards.  Fund of
knowledge is intact.  Language is fluent.  Normal prosody, no
paraphasic errors.  Able to name and repeat with intact
comprehension.  Memory for recent and remote history is intact. 
Following both midline and appendicular commands.  No evidence 
of
apraxia or neglect

Cranial nerves:  
Pupils are equal and reactive to light.  Extraocular movements
are full.  Facial sensation and movement are intact and
symmetric.  Hearing is intact to finger rub bilaterally.  Palate
elevates symmetrically.  SCM and trapezius are full strength
bilaterally.  Tongue is midline.  

Motor:  Tone is normal.  He has no pronator drift.  Strength is
full in all muscle groups in 4 extremities.    
Sensation:  Sensation is intact to pinprick, light touch.  Joint
position sense is intact.
Coordination: No dysmetria to finger-nose bilaterally
Reflexes: 2 at biceps, triceps, brachioradialis, patella and 1 
at
the ankle bilaterally.  toes are downgoing bilaterally.  
Gait: Deferred

 
Pertinent Results:
___ 05:38AM BLOOD WBC-7.3 RBC-4.17* Hgb-13.1* Hct-39.4* 
MCV-95 MCH-31.4 MCHC-33.2 RDW-12.3 RDWSD-42.7 Plt ___
___ 05:38AM BLOOD Glucose-100 UreaN-13 Creat-0.8 Na-143 
K-4.1 Cl-109* HCO3-23 AnGap-11
___ 04:35AM BLOOD ALT-17 AST-24 AlkPhos-49 TotBili-0.3
___ 05:38AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.1
___ 08:24AM BLOOD VitB12-382
___ 08:24AM BLOOD TSH-1.9
___ 04:35AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 11:23AM BLOOD Lactate-1.4

EEG:
This is an abnormal continuous video-EEG monitoring study 
due to: 
1. Seizure arising from the left temporally, characterized 
clinically by mouth 
automatism (chewing) and other brief and non-specific movements 
(brief head 
turn to the left and brief hand movements). 
There are no pushbutton events. No definite epileptiform 
discharges 

MRI brain w and w/o
There is no evidence of acute intracranial process or 
hemorrhage. 
2. There is no evidence of abnormal enhancement after contrast 
administration. 

 
Brief Hospital Course:
___ M with PMH of A. fib on Eliquis, recent history of 
transient lack of awareness and aphasia suspected to be TIA, 
presented to the ED with complaints of an episode of impaired 
consciousness(screaming, guttural sounds, clenched fists 
generalized trembling followed by 15-min period of 
unresponsiveness) associated with possible right shoulder pain 
(suspicious for dislocation) and labs significant for lactic 
acidosis.
Exam in the ED without any neurological deficits. Possible 
etiology of the episode was suspected to be seizure. He was 
admitted for further evaluation, underwent continuous video EEG 
monitoring. No metabolic/infectious/trauma etiologies 
identified. MRI with and without contrast did not show any 
abnormalities.
Video EEG revealed 90 second seizure with L temporal onset 
associated with staring and chewing. He was subsequently started 
on Keppra 1g BID and continuous EEG did not show any further 
seizure activity. Lumbar puncture was not performed as MRI brain 
was unrevealing, seizures were well controlled with Keppra, and 
clinical suspicion for an infectious/inflammatory process was 
therefore low. His clinical status and neurological exam 
remained stable and he was ambulating in the hallways without 
issues. He was discharged home to follow-up with outpatient 
neurology as above. We recommended that he do not drive for at 
least 6 months and to avoid handling heavy/mechanical 
equipment/baths when he is by himself.

Right shoulder pain was evaluated with an x-ray which did not 
reveal any fracture or dislocation. Suspect chronic degenerative 
changes and rotator cuff issues with possible acute injury?. He 
is to follow-up with his PCP ___ 1 week and to follow-up with 
his orthopedic surgeon for further evaluation.

Transitional issues:
-Follow-up with orthopedic team for evaluation of right shoulder 
pain, likely due to rotator cuff pathology. Referral for 
outpatient ___ was provided to him. 
-Follow-up with neurology-will require further outpatient 
work-up to determine the cause of seizure (no 
structural/metabolic/infectious causes identified so far and no 
history of memory loss to suggest temporal sclerosis).
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Pravastatin 20 mg PO QPM 

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3 
2.  Apixaban 5 mg PO BID  
3.  Pravastatin 20 mg PO QPM  
4.Outpatient Physical Therapy
Evaluate and treat
Diagnosis: Rotator cuff strain, right

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized d for evaluation of an episode of impaired 
consciousness.  Based on the description of the event, we 
suspected that you may have had a seizure prior to arrival.  You 
underwent continuous video electrical brainwave activity 
monitoring (called EEG) and you were found to have abnormal 
changes during an episode of chewing and staring consistent with 
a seizure.  You were started on levetiracetam (Keppra) and 
antiseizure medication with continuous monitoring of brain wave 
activity.  You did not have any further seizures for 24 hours 
after initiation of medication.  You are being discharged home 
to follow-up with neurology as outpatient.

You also complained of right shoulder pain, x-ray did not show 
fracture or dislocation and showed some degenerative changes.  
It is possible that you have a rotator cuff injury and we 
recommend you follow-up with your outpatient orthopedic surgeon 
for further management.

According to ___ law, you cannot drive for 6 months after 
your last seizure. You should also avoid heights/ladders, 
bathing or swimming unsupervised, or power tools/dangerous 
machinery. 

New medication added
Keppra 1000mg oral twice daily
Please continue home apixaban as previous

Please follow-up with Dr. ___, neurologist ___ 
___ as previously scheduled ___.
Also follow-up with primary care physician ___ 1 to 2 weeks.

It is a pleasure taking care of you!

Your sincerely,
___ Neurology team
 
Followup Instructions:
___